*
D1 N002 N001 1N4007
D2 N003 N002 1N4007
D3 0 N001 1N4007
D4 N003 0 1N4007
R1 N001 N003 10k
C1 N001 N003 10µ
V1 N002 0 SINE(0 398.37 50)
.model D D
.lib C:\Users\tanim\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .1
.backanno
.end
