*
V1 N001 0 0
R1 N002 N001 217
D1 0 N002 1N4733A
.model D D
.lib C:\Users\tanim\AppData\Local\LTspice\lib\cmp\standard.dio
.model 1N4733A D(Is=7.03E-16 Rs=0.871 Tt=50.1n Cjo=189p Vj=0.75 M=0.33
+ BV=5.059 Ibv=0.049 Vpk=5.1)
.dc V1 0 10 0.01
.backanno
.end
