* D:\Academics\2-1\Lab Reports\EEE 2188\src\lab-04\ltspice\center-tapped-without-capacitor.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N003 0 SIN (0 398.37 50)
L1 N003 0 1m Rser=1m
L2 0 N001 1µ Rser=1m
L3 N004 0 1µ Rser=1m
D1 N001 N002 1N4007
D2 N004 N002 1N4007
R1 0 N002 10k
.model D D
.lib C:\Users\tanim\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 L3 1
.tran .1
.backanno
.end
