* D:\Academics\2-1\Lab Reports\EEE 2188\src\lab-05\ltspice\negative-clamper.asc
* Generated by LTspice 26.0.2 for Windows.
V_in input 0 SINE(0 5 1k)
C1 output input 10µF
R1 output 0 10k
D1 output N001 1N4007
V1 0 N001 5
.model D D
.lib C:\Users\tanim\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .01
.backanno
.end
